US07141586B2
N-(cis-4-Amino-cyclohexyl)-5-fluoro-2-(3-methylsulfanyl-phenoxy)-nicotinamide hydrochloride (100 mg, 0.243 mmol) was dissolved in dimethylformamide (1 ml) and triethylamine (100 μl, 0.729 mmol) was added followed by 1-methylcyclopropanecarboxylic acid (29 mg, 0.291 mmol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (56 mg, 0.291 mmol) and 1-hydroxybenzotriazole (39 mg, 0.291 mmol). The reaction was stirred under nitrogen at room temperature for 64 h and the solvent was removed under reduced pressure. The residue was partitioned between sat. sodium bicarbonate solution (5 ml) and ethyl acetate (10 ml) and the aqueous phase was extracted with ethyl acetate (3×10 ml). The combined organic extracts were washed with water (2×5 ml), brine (5 ml), dried over MgSO4 and the solvent was removed under reduced pressure. The residue was triturated with diethylether (5 ml) to give 5-Fluoro-N-{cis-4-[(1-methyl-cyclopropanecarbonyl)-amino]-cyclohexyl}-2-(3-methylsulfanyl-phenoxy)-nicotinamide (109 mg) as a white solid.

reactant | N-(cis-4-Amino-cyclohexyl)-5-fluoro-2-(3-methylsulfanyl-phenoxy)-nicotinamide hydrochloride | 0.243 mmol, 100 mg | Cl.N[C@H]1CC[C@H](CC1)NC(C1=C(N=CC(=C1)F)OC1=CC(=CC=C1)SC)=O
reactant | triethylamine | 0.729 mmol, 100 μl | C(C)N(CC)CC | C6H15N
reactant | 1-methylcyclopropanecarboxylic acid | 0.291 mmol, 29 mg | CC1(CC1)C(=O)O | C5H8O2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.291 mmol, 56 mg | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole | 0.291 mmol, 39 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | 5-Fluoro-N-{cis-4-[(1-methyl-cyclopropanecarbonyl)-amino]-cyclohexyl}-2-(3-methylsulfanyl-phenoxy)-nicotinamide | 109 mg | FC=1C=NC(=C(C(=O)N[C@@H]2CC[C@@H](CC2)NC(=O)C2(CC2)C)C1)OC1=CC(=CC=C1)SC | C24H28FN3O3S
